US04558053
Preparation of vinzolidine 1,5-naphthalenedisulfonate
To 1% (w/v) solution of vinzolidine free base (95+% purity) in methanol is added dropwise with stirring a stoichiometric amount (1 mole per mole) of a 2% methanolic solution of 1,5-naphthalenedisulfonic acid. The resulting solution was allowed to stand at ambient temperature for about two hours, during which time period crystallization of the vinzolidine 1,5-naphthalenedisulfonate salt begins. The crystallizing solution is kept at about 0° C. overnight and is then filtered. The filter cake is washed with a small amount of methanol and then dried in vacuo overnight at ambient temperature. The salt is then allowed to stand in air for about two hours. The yield of vinzolidine 1,5-naphthalenedisulfonate is 95-97%.

reactant | vinzolidine | CC[C@@]1(CC2C[C@@](C3=C(C=4C=CC=CC4N3)CCN(C2)C1)(C=5C=C6C(=CC5OC)N([C@@H]7[C@]68CCN9[C@H]8[C@@](C=CC9)([C@H]([C@]71C(=O)N(C(=O)O1)CCCl)OC(=O)C)CC)C)C(=O)OC)O | C48H58ClN5O9
reactant | 1,5-naphthalenedisulfonic acid | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O | C10H8O6S2
solvent | methanol | CO | CH4O
product | vinzolidine 1,5-naphthalenedisulfonate | CC[C@@]1(CC2C[C@@](C3=C(C=4C=CC=CC4N3)CCN(C2)C1)(C=5C=C6C(=CC5OC)N([C@@H]7[C@]68CCN9[C@H]8[C@@](C=CC9)([C@H]([C@]71C(=O)N(C(=O)O1)CCCl)OC(=O)C)CC)C)C(=O)OC)O.C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C48H58ClN5O9.C10H8O6S2/c1-7-44(59)24-29-25-47(42(57)61-6,37-31(14-19-52(26-29)27-44)30-12-9-10-13-34(30)50-37)33-22-32-35(23-36(33)60-5)51(4)39-46(32)16-20-53-18-11-15-45(8-2,38(46)53)40(62-28(3)55)48(39)41(56)54(21-17-49)43(58)63-48;11-17(12,13)9-5-1-3-7-8(9)4-2-6-10(7)18(14,15)16/h9-13,15,22-23,29,38-40,50,59H,7-8,14,16-21,24-27H2,1-6H3;1-6H,(H,11,12,13)(H,14,15,16)/p-2/t29?,38-,39+,40+,44-,45+,46+,47-,48-;/m0./s1
